US09227978B2
Tert-Butyl 3-(4-(2-((4-Chloro-5-iodo-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate
To a solution of 2-(4-chloro-5-iodo-2-methoxyphenylamino)propanoic acid (760 mg, 2.13 mmol), tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate (669 mg, 2.78 mmol), EDCI.HCl (818 mg, 4.26 mmol), HOBt (575 mg, 4.26 mmol) in DMF (8 mL) at 0° C., Et3N (861 mg, 8.52 mmol) was added. The resulting mixture was stirred at RT for 16 h and then partitioned between ethyl acetate and water. The organic layer was washed with saturated NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (ethyl acetate/petroleum ether=1:1) to afford the desired product (673 mg, 55% yield) as a white solid. ESI-MS m/z: 579.4 [M+H]+.

reactant | 2-(4-chloro-5-iodo-2-methoxyphenylamino)propanoic acid | 2.13 mmol, 760 mg | ClC1=CC(=C(C=C1I)NC(C(=O)O)C)OC | C10H11ClINO3
reactant | tert-butyl 3-(piperazin-1-yl)azetidine-1-carboxylate | 2.78 mmol, 669 mg | N1(CCNCC1)C1CN(C1)C(=O)OC(C)(C)C | C12H23N3O2
reactant | EDCI.HCl | 4.26 mmol, 818 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 4.26 mmol, 575 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 8.52 mmol, 861 mg | CCN(CC)CC | C6H15N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Tert-Butyl 3-(4-(2-((4-Chloro-5-iodo-2-methoxyphenyl)amino)propanoyl)piperazin-1-yl)azetidine-1-carboxylate | 673 mg, 55% yield | ClC1=CC(=C(C=C1I)NC(C(=O)N1CCN(CC1)C1CN(C1)C(=O)OC(C)(C)C)C)OC | C22H32ClIN4O4
